US08097759B2
5-Chloro-N-(2,5-dichlorophenyl)-2-hydroxybenzamide (Compound No. 142)
Using 5-chlorosalicylic acid and 2,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
product | 5-Chloro-N-(2,5-dichlorophenyl)-2-hydroxybenzamide | Yield: 10.8% | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)Cl)Cl)C1)O | C13H8Cl3NO2
